US08389511B2
6-Bromo-3,3-dimethyl-1,3-dihydro-2H-indol-2-one
To 1-acetyl-6-bromo-3,3-dimethyl-1,3-dihydro-2H-indol-2-one (5.2 g) were added 1N aqueous NaOH solution (11 ml) and EtOH (44 ml), and the mixture was stirred at room temperature for one hour. After the reaction was complete, the solvent was concentrated, and thereto was added dropwise a 2N aqueous hydrochloric acid solution. The precipitated crystals were extracted with ethyl acetate, and this ethyl acetate solution was washed with water and an aqueous sodium chloride solution, dried over magnesium sulfate, filtered, and concentrated. The obtained residue (4.1 g) was used in the subsequent reaction without further treatment.

reactant | 1-acetyl-6-bromo-3,3-dimethyl-1,3-dihydro-2H-indol-2-one | 5.2 g | C(C)(=O)N1C(C(C2=CC=C(C=C12)Br)(C)C)=O | C12H12BrNO2
reactant | NaOH | 1N, 11 ml | [OH-].[Na+]
solvent | EtOH | 44 ml | CCO | C2H6O
product | 6-Bromo-3,3-dimethyl-1,3-dihydro-2H-indol-2-one | BrC1=CC=C2C(C(NC2=C1)=O)(C)C | C10H10BrNO
